US07323455B2
1-(2-Amino-5-bromophenyl)-1-(2-furyl)ethanol
Prepared from 1-(2-amino-5-bromo-phenyl)-ethanone and 2-furyl lithium generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 7.6 (m, 1H), 7.08 (dd, J=2.73, 10.91 Hz, 1H), 6.8 (d, J=2.73 Hz, 1H), 6.56 (d, J=8.18 Hz, 1H), 6.45-6.38 (m, 2H), 6.14 (s, 1H), 5.3 (s, 2H), 1.76 (s, 3H); MS (ES) m/z 280/282 ([M−H]−, 30%).

reactant | 1-(2-amino-5-bromo-phenyl)-ethanone | NC1=C(C=C(C=C1)Br)C(C)=O | C8H8BrNO
reactant | 2-furyl lithium | O1C(=CC=C1)[Li]
product | 1-(2-Amino-5-bromophenyl)-1-(2-furyl)ethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C=1OC=CC1 | C12H12BrNO2
